US05814654
A mixture of ethyl 3,4,5,6-tetrahydro-6-hydroxy-1-H-cyclohepta[cd]indole-2-carboxylate (0.30 g, 1.16 mmol), sodium methoxide (1.26 g, 23.1 mmol), guanidine hydrochloride (2.22 g, 23.1 mmol) and N,N-dimethylformamide (15 ml) was stirred at room temperature for 3 days. The reaction mixture was poured into a 5% aqueous sodium chloride solution, followed by extraction with ethyl acetate (three times). The extract solution was washed twice with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain crude N-(aminoiminomethyl)-3,4,5,6-tetrahydro-6-hydroxy-1H-cyclohepta [cd]indole-2carboxamide. This crude product was added to a solution of methanesulfonic acid (0.22 g) in tetrahydrofuran (12 ml) and the resulting mixture was stirred at 0°-5° C. The insoluble materials were filtered off and the filtrate was concentrated under reduced pressure. A 5% aqueous sodium chloride solution was added to the thus obtained residue, and the resulting mixture was made basic with 28% aqueous ammonia and extracted twice with ethyl acetate. The extract solution was washed with a 5% aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=96/4) to obtain N-(aminoiminomethyl)-3,4-dihydro-1H-cyclohepta[cd]indole-2-carboxamide (0.16 g). This compound (0.16 g) was treated with a solution of methanesulfonic acid (0.15 g) in tetrahydrofuran (3.5 ml) to obtain N-(aminoiminomethyl)-3,4-dihydro-1H-cyclohepta[cd]indole-2-carboxamide methanesulfonate (0.11 g).

reactant | ethyl 3,4,5,6-tetrahydro-6-hydroxy-1-H-cyclohepta[cd]indole-2-carboxylate | 1.16 mmol, 0.30 g | OC1CCCC2=C(NC=3C=CC=C1C23)C(=O)OCC | C15H17NO3
reactant | sodium methoxide | 23.1 mmol, 1.26 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 23.1 mmol, 2.22 g | Cl.NC(=N)N
reactant | sodium chloride | [Cl-].[Na+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(aminoiminomethyl)-3,4,5,6-tetrahydro-6-hydroxy-1H-cyclohepta [cd]indole-2carboxamide | NN=CNC(=O)C=1NC=2C=CC=C3C2C1CCCC3O | C14H16N4O2
